*Mehmet c›had Ozalp R1=10K f=1K

.model D1N4148 D(IS=5.84n N=1.94 RS=.7017 XTI=3 EG=1.11 CJO=.95p 
+ M=.55 VJ=.75 FC=.5 BV=100 IBV=100u TT=11.07n)
VIN 1 0 PULSE(0 5 0NS 2NS 2NS 0.5ms 1ms)
D1 1 2 D1N4148
R1 2 0 10k
.control 
tran 100ns 10ms
plot V(2) 
.endc
